US05817693
Methyl(1RS,2SR,3RS)-3-(4-methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (0.118 g, 0.19 mmol), lithium chloride (0.058 g, 1.37 mmol), tetrakis(tri-phenylphosphine)palladium(0) (0.018 g, 0.016 mmol) and ethyl 3-[tri-(butyl-1-yl)stannyl]benzoate (0.253 g, 0.58 mmol) were mixed in dry dimethylformamide (5 ml) and refluxed for 24 h. The product was filtered through celite and the celite washed with ethyl acetate. The combined filtrate was evaporated in vacuo and was shown to be a mixture of two components by TLC. Purification by column chromatography on silica-gel gave a less polar fraction: methyl(1RS,2SR,3SR)-3-[2-(but-1-yl)-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (0.038 g) which was obtained as a colorless oil. The title compound was the more polar component (0.08 g) which while contaminated with tin residues (1H-NMR) was used without further purification.

reactant | Methyl(1RS,2SR,3RS)-3-(4-methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.19 mmol, 0.118 g | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)OS(=O)(=O)C(F)(F)F | C29H27F3O9S
reactant | lithium chloride | 1.37 mmol, 0.058 g | [Cl-].[Li+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | methyl(1RS,2SR,3SR)-3-[2-(but-1-yl)-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.038 g | C(CCC)C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC | C32H36O6
